US06900196B2
4-(Boc-aminomethyl)piperidine
A solution of 4-(Boc-aminomethyl)pyridine (20 g, 96 mmol) was treated with 5 g of 5% rhodium on carbon and was stirred under 4.1 bar (60 psig) of H2 overnight. Filtration through diatomaceous earth and evaporation of the solvent afforded 20 g (99%) of the title compound.

reactant | 4-(Boc-aminomethyl)pyridine | 96 mmol, 20 g | C(=O)(OC(C)(C)C)C(C1=CC=NC=C1)N | C11H16N2O2
catalyst | rhodium on carbon | 5 g | [Rh] | Rh
product | 4-(Boc-aminomethyl)piperidine | 20 g, 99% | C(=O)(OC(C)(C)C)C(C1CCNCC1)N | C11H22N2O2
